US05245085
To a solution of methyl 2-acetyl-5,9-dimethyl-10-(2-tetrahydropyranyl)oxy-4,8-decadienate (370 mg, 1.05 mmol) in methylsulfoxide (2 ml) were added sodium chloride (180 mg, 3.08 mmol)and water (0.1 ml), and the mixture was stirred at 150° C. After four hours, the reaction mixture was allowed to cool to room temperature, and water (15 ml) was added thereto. The product was extracted with ether (20 m1×2). The extract was dried over Na2SO4, and concentrated to give a residue, which was then purified with silica gel column chromatography to obtain 6,10-dimethyl-11-(2-tetrahydropyranyl)oxy-5,9-undecadien-2-one (70%).

reactant | methyl 2-acetyl-5,9-dimethyl-10-(2-tetrahydropyranyl)oxy-4,8-decadienate | 1.05 mmol, 370 mg | C(C)(=O)C(C(=O)OC)CC=C(CCC=C(COC1OCCCC1)C)C | C20H32O5
reactant | sodium chloride | 3.08 mmol, 180 mg | [Cl-].[Na+]
reactant | water | 0.1 ml | O | H2O
reactant | water | 15 ml | O | H2O
solvent | methylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 6,10-dimethyl-11-(2-tetrahydropyranyl)oxy-5,9-undecadien-2-one | 70% | CC(=CCCC(C)=O)CCC=C(COC1OCCCC1)C | C18H30O3
